US04556717
5.1 g (0.017 mol) of 1-[2-(2,4-dichlorophenyl)pentyl]-2acetylhydrazine in 10 ml of ethanol and 10 ml of concentrated hydrochloric acid are stirred at 50° C. overnight. The reaction mixture is then distributed between diethyl ether and 2 N sodium hydroxide solution; and the residue after concentration by evaporation is refluxed in 50 ml of absolute ethanol with 5.75 g (0.035 mol) of [3-(dimethylamino)-2-aza-prop-2-en-1-ylidene]-dimethylammonium chloride for 3.5 hours. The reaction solution is then concentrated by evaporation; 50 ml of formamide are added, and the mixture is heated at 170° C. for 1.5 hours. The reaction mixture, to which water has been added, is extracted with diethyl ether, and the residue obtained after concentration by evaporation is chromatographed to yield 4.2 g (84% of theory) of 1-[2-(2,4-dichlorophenyl)-pentyl]-1H-1,2,4-triazole.

reactant | 1-[2-(2,4-dichlorophenyl)pentyl]-2acetylhydrazine | 0.017 mol, 5.1 g | ClC1=C(C=CC(=C1)Cl)C(CNNC(C)=O)CCC | C13H18Cl2N2O
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | [3-(dimethylamino)-2-aza-prop-2-en-1-ylidene]-dimethylammonium chloride | 0.035 mol, 5.75 g | [Cl-].CN(C=NC=[N+](C)C)C
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 10 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-[2-(2,4-dichlorophenyl)-pentyl]-1H-1,2,4-triazole | 4.2 g, 84% | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)CCC | C13H15Cl2N3
